US04518597
6-[4-(3,4-Dichloro-phenylmercapto)-butoxy]-4,4-diethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 1 from 6-(4-chlorobutoxy)-4,4-diethyl-4H-3,1-benzoxazin-2-one and 3,4-dichloro-thiophenol.

reactant | 6-(4-chlorobutoxy)-4,4-diethyl-4H-3,1-benzoxazin-2-one | ClCCCCOC=1C=CC2=C(C(OC(N2)=O)(CC)CC)C1 | C16H22ClNO3
reactant | 3,4-dichloro-thiophenol | ClC=1C=C(C=CC1Cl)S | C6H4Cl2S
product | 6-[4-(3,4-Dichloro-phenylmercapto)-butoxy]-4,4-diethyl-4H-3,1-benzoxazin-2-one | ClC=1C=C(C=CC1Cl)SCCCCOC=1C=CC2=C(C(OC(N2)=O)(CC)CC)C1 | C22H25Cl2NO3S
